US05618839
4-[[(1,1-Dimethyl-3-phenyl-1H-inden-5-yl)amino]carbonyl]benzoic acid (I31 a)
Methyl 4-[[(1,1-dimethyl-3-phenyl-1H-inden-5-yl)amino]carbonyl]benzoate (325 mg, 0.82 mmol), 4.1 mL of 2N NaOH in 10 mL of tetrahydrofuran and 10 mL of methanol were stirred for 2 hours. The mixture was concentrated and acidified with 1N HCl (20 mL), extracted with ethyl acetate (35 mL×2). The combined extracts were washed with water (10 mL), dried over magnesium sulfate, and evaporated. The residue was triturated in ether-hexane to give 246 mg (78% yield) of the title compound as white solids; NMR (DMSO-d6) δ1.35 (s, 6H), 6.58 (s, 1H), 7.38-7.70 (m, 7H), 7.73 (d, J=7.9 Hz, 1H), 7.90 (s, 1H), 8.04 (s, 4H), 10.38 (bs, 1H), 13.25 (bs, 1H); MS m/e 384 (MH+).

reactant | Methyl 4-[[(1,1-dimethyl-3-phenyl-1H-inden-5-yl)amino]carbonyl]benzoate | 0.82 mmol, 325 mg | CC1(C=C(C2=CC(=CC=C12)NC(=O)C1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1)C | C26H23NO3
reactant | NaOH | 2N, 4.1 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 4-[[(1,1-Dimethyl-3-phenyl-1H-inden-5-yl)amino]carbonyl]benzoic acid | 246 mg, 78% yield | CC1(C=C(C2=CC(=CC=C12)NC(=O)C1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1)C | C25H21NO3
